* Primitive-device non-inverting CMOS Schmitt trigger with explicit VTH summing node
VDD VDD 0 5
VREF VREF 0 2.5
Vin Vin 0 0

Rin Vin VTH 100k
Rfb Vout VTH 330k
Rref VREF VTH 120k

Ibias VDD NBIAS 20u
MNB NBIAS NBIAS 0 0 NMOS L=1u W=20u
MTAIL NTAIL NBIAS 0 0 NMOS L=1u W=20u

MINP N1 VTH NTAIL 0 NMOS L=1u W=40u
MREF Vout VREF NTAIL 0 NMOS L=1u W=40u

MP1 N1 N1 VDD VDD PMOS L=1u W=80u
MP2 Vout N1 VDD VDD PMOS L=1u W=80u

Cload Vout 0 20f

.model NMOS NMOS (LEVEL=1 VTO=0.75 KP=220u LAMBDA=0.03 GAMMA=0.45 PHI=0.7)
.model PMOS PMOS (LEVEL=1 VTO=-0.75 KP=90u LAMBDA=0.03 GAMMA=0.45 PHI=0.7)

.op
.end
